US05847122
To a mixture of sodium hydride (62.5% oil dispersion, 0.46 g) and dimethyl sulfoxide (3 ml) is added a solution of aniline (1.02 g) in dimethyl sulfoxide (1 ml) at room temperature under nitrogen atmosphere, and the mixture is stirred for 30 minutes. To the mixture is added a solution of (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxypropionic acid methyl ester (2.08 g) in dimethyl sulfoxide (4 ml) at room temperature over a period of 15 minutes. The mixture is further stirred at the same temperature for one hour, and thereto is added water (50 ml). The precipitated yellow crystals are collected by filtration, and recrystallized from ethyl acetate (60 ml) to give (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxy-N-phenylpropionamide (1.50 g).

reactant | sodium hydride | 0.46 g | [H-].[Na+]
reactant | aniline | 1.02 g | NC1=CC=CC=C1 | C6H7N
reactant | (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxypropionic acid methyl ester | 2.08 g | COC([C@H]1[C@@H](O1)C1=CC=C(C=C1)OC)=O | C11H12O4
reactant | water | 50 ml | O | H2O
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxy-N-phenylpropionamide | 1.50 g | COC1=CC=C(C=C1)[C@H]1[C@H](C(=O)NC2=CC=CC=C2)O1 | C16H15NO3
